US08431563B2
To a solution of tert-butyl (2-((2-oxo-3-pentyn-1-yl)(2-thiophenylsulfonyl)amino)ethyl)carbamate (330 mg, 0.854 mmol) in CH2Cl2 (10 mL) was added sodium triacetoxyborohydride (1.0 g, 4.72 mmol, Sigma-Aldrich, St. Louis, Mo.) followed by TFA (2.5 mL, 32.4 mmol). The mixture was stirred at room temperature for 1 h and then concentrated to half the original volume. MeOH (5 mL) was added and the solution was concentrated by one-third and then partitioned between NaOH (0.5 N, 20 mL) and CHCl3 (containing 10% i-PrOH) (20 mL). The aqueous layer was extracted twice with CHCl3 (containing 10% i-PrOH) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated to orange oil. The residue was purified by chromatography on silica gel using (1 to 5% MeOH in EtOAc) to give 3-(1-propyn-1-yl)-1-(2-thiophenylsulfonyl)piperazine as a light-yellow film (150 mg).

reactant | tert-butyl (2-((2-oxo-3-pentyn-1-yl)(2-thiophenylsulfonyl)amino)ethyl)carbamate | 0.854 mmol, 330 mg | O=C(CN(CCNC(OC(C)(C)C)=O)S(=O)(=O)C=1SC=CC1)C#CC | C16H22N2O5S2
reactant | sodium triacetoxyborohydride | 4.72 mmol, 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | TFA | 32.4 mmol, 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-propyn-1-yl)-1-(2-thiophenylsulfonyl)piperazine | C(#CC)C1CN(CCN1)S(=O)(=O)C=1SC=CC1 | C11H14N2O2S2
